US06649643B1
Production of (S)-(−)-1-(6,7-Dimethoxy-2-naphthyl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
1-(1-benzyloxymethyl-1H-imidazol-4-yl)-1-(6,7-dimethoxy-2-naphthyl)-2-methyl-1-propanol (20 g) was dissolved in warm methanol (1 L). Acetic acid (10.24 mL) and 10% Pd—C (50% wet; 20 g) were added and the mixture was stirred vigorously at 40° C. for 9 h under hydrogen atmosphere at 4 atmospheric pressure. The catalyst was filtered off and the filtrate was concentrated in vacuo. The residue was dissolved in ethyl acetate (600 mL), washed with sodium bicarbonate solution and 1M sodium bisulfite solution. The water layer was extracted with ethyl acetate. The organic layers were combined and dried over Na2SO4, concentrated in vacuo. The residue was crystallized from ethyl acetate-diisopropyl ether to give the titled compound (11.15 g) as colorless crystals.

reactant | 1-(1-benzyloxymethyl-1H-imidazol-4-yl)-1-(6,7-dimethoxy-2-naphthyl)-2-methyl-1-propanol | 20 g | C(C1=CC=CC=C1)OCN1C=NC(=C1)C(C(C)C)(O)C1=CC2=CC(=C(C=C2C=C1)OC)OC | C27H30N2O4
reactant | Acetic acid | 10.24 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 1 L | CO | CH4O
catalyst | Pd—C | 20 g | [Pd] | Pd
product | (S)-(−)-1-(6,7-Dimethoxy-2-naphthyl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 11.15 g | COC=1C=C2C=CC(=CC2=CC1OC)[C@](C(C)C)(O)C=1N=CNC1 | C19H22N2O3
